US07217710B2
Preparation of N-[3-(4-Amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-N′,N′-diethyl-ethane-1,2-diamine
Prepared as described above in Example 15 starting from N′-(3-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl)-N,N-diethyl-ethane-1,2-diamine and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline to give the title compound N-[3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-N′,N′-diethyl-ethane-1,2-diamine; 1H-NMR (MeOH): δ 1.38 (m, 6H), 3.36 (m, 4H), 3.82 (m, 2H), 3.92 (m, 2H), 3.98 (s, 3H), 7.46 (d, 2H, J=8.4 Hz), 8.09 (d, 2H, J=8.4 Hz), 9.18 (s, 1H), LC/MS (m/e)=340.2 (MH+), Rt=0.98 min.

reactant | N′-(3-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl)-N,N-diethyl-ethane-1,2-diamine | ClC1=NN(C2=NC(=NC=C21)NCCN(CC)CC)C | C12H19ClN6
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
product | N-[3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-N′,N′-diethyl-ethane-1,2-diamine | NC1=CC=C(C=C1)C1=NN(C2=NC(=NC=C21)NCCN(CC)CC)C | C18H25N7
